US07153925B2
Phenyl chloroformate (1.57 g, 0.01 mol) and N-methyl-4-methylbenzene sulfonamide (1.85 g, 0.01 mol) were diluted with 1,2-dichlorobenzene (15 ml) and refluxed for 40 hrs. The solvent was evaporated in vacuo and the residue diluted dichloromethane and the dichloromethane washed with water (2×), dried over anhydrous magnesium sulfate. Evaporation of the solvent in vacuo gave N-methyl-N*-phenoxycarbonyl-4-methylbenzene sulfonamide mp 98–100° C. MS m/z 305. (M+ calcd for C15H15NO4S=305). H NMR (300 MHz, CDCl3) d 2.43 (s, 3, CH3), 2.45 (s, 3, NCH3), 6.95 (m, 2, aromatic), 7.18–7.35 (m, 5, aromatic), 7.88 (m, 5, aromatic).

reactant | Phenyl chloroformate | 0.01 mol, 1.57 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | N-methyl-4-methylbenzene sulfonamide | 0.01 mol, 1.85 g | CNS(=O)(=O)C1=CC=C(C=C1)C | C8H11NO2S
solvent | 1,2-dichlorobenzene | 15 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | phenoxycarbonyl-4-methylbenzene sulfonamide | O(C1=CC=CC=C1)C(=O)C1=C(C=CC(=C1)C)S(=O)(=O)N | C14H13NO4S
